US05155113
Preparation of 4-(3-benzyloxycarbonylpropoxy)-1-ethoxymethyl-2-pyridone
A 0.22 g quantity of 1-ethoxymethyl-4-hydroxy-2-pyridone and 0.43 g of monobenzyl ester of succinic acid were dissolved in 5 ml of tetrahydrofuran, and 0.45 g of dicyclohexylcarbodiimide was added to the solution with ice cooling. The mixture was reacted overnight at room temperature and the precipitates were filtered off. The filtrate was concentrated and purified on a silica gel chromatography using chloroform as an eluent, giving 0.41 g of the title compound in a yield of 88%.

reactant | 1-ethoxymethyl-4-hydroxy-2-pyridone | C(C)OCN1C(C=C(C=C1)O)=O | C8H11NO3
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | dicyclohexylcarbodiimide | 0.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(3-benzyloxycarbonylpropoxy)-1-ethoxymethyl-2-pyridone | 0.41 g, yield of 88% | C(C1=CC=CC=C1)OC(=O)CCCOC1=CC(N(C=C1)COCC)=O | C19H23NO5
